US06849622B2
To 150 ml of a tetrahydrofuran suspension containing 10 g of trans-4-aminocyclohexanol was added 15ml of triethylamine, 50 ml of a tetrahydrofuran solution containing 2-chloro-5-nitropyridine was further added thereto under ice-cooling, and then, the mixture was stirred at room temperature for 18 hours. Water was added to the reaction mixture and the mixture was extracted with chloroform. The extract was washed with brine, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel flash column chromatography (solvent: ethyl acetate-hexane (2:1)) to obtain 8.52 g of trans-4-(5-nitro-2-pyridylamino)cyclohexanol.

reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | trans-4-aminocyclohexanol | 10 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | triethylamine | 15ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | 2-chloro-5-nitropyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | Water | O | H2O
product | trans-4-(5-nitro-2-pyridylamino)cyclohexanol | 8.52 g | [N+](=O)([O-])C=1C=CC(=NC1)N[C@@H]1CC[C@H](CC1)O | C11H15N3O3
